* C:\Users\jorge\TC2_scripts\tc2\TS6\TS6_1.asc
V1 N005 0 SINE(0 1) AC 1
R1 N003 N005 1.85
L1 N006 0 1
C1 N006 N003 1
XU2 N004 N006 N004 opamp Aol=100K GBW=10Meg
XU3 Vo N002 Vo opamp Aol=100K GBW=10Meg
R2 N001 N004 0.76
L2 N002 0 1
C2 N002 N001 1
LN1 N003 N006 9
.lib opamp.sub
.ac dec 100 0.01 10
.backanno
.end
