* C:\Users\jorge\TC2_scripts\tc2\TS6\TS6_gic.asc
V1 N001 0 AC 1 0
R5 N005 N007 1
XU2 N007 N009 N003 opamp Aol=100K GBW=10Meg
XU3 N007 N002 N005 opamp Aol=100K GBW=10Meg
R1 N007 N003 1
C1 N002 N003 1
R2 N005 N009 1
R3 0 N009 0.54
C2 N009 N001 1
R6 N002 N001 2
R4 N006 N008 1
XU1 N008 N010 Vo opamp Aol=100K GBW=10Meg
XU4 N008 N004 N006 opamp Aol=100K GBW=10Meg
R7 N008 Vo 1
C3 N004 Vo 1
R8 N006 N010 1
R9 0 N010 1.31
C4 N010 N003 1
R10 N004 N003 2
.ac dec 100 0.01 10
.inc opamp.sub
.backanno
.end
