* C:\Users\jorge\TC2_scripts\tc2\TS12\draft2.asc
C1 N002 N001 {C1}
V1 N003 0 SINE(0) AC 1
R1 N001 N003 {R1}
R2 N002 N001 {R2}
R3 N002 0 {R3}
C2 N002 0 {C2}
.ac dec 1000 0.01 10
.param C1=0.25/2/PI
.param C2=1/2/PI
.param R1=2
.param R2=4
.param R3=2/5
.backanno
.end
